### PR TITLE
[Merged by Bors] - golf(Analysis/Calculus): golf entire `LineDifferentiableAt.congr_of_eventuallyEq`

### PR DESCRIPTION
**Pull request by euprunin**
Motivation: Avoid (partial) proof duplication.

---
<details>
<summary>Show trace profiling of <code>LineDifferentiableAt.congr_of_eventuallyEq</code>: 183 ms before, 13 ms after  🎉</summary>

### Trace profiling of `LineDifferentiableAt.congr_of_eventuallyEq` before PR 28203
```diff
diff --git a/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean b/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
index 97ba668da2..9061abccb9 100644
--- a/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
+++ b/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
@@ -360,6 +360,7 @@ theorem LineDifferentiableWithinAt.congr_of_eventuallyEq (h : LineDifferentiable
     (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) : LineDifferentiableWithinAt 𝕜 f₁ s x v :=
   (h.hasLineDerivWithinAt.congr_of_eventuallyEq h₁ hx).differentiableWithinAt
 
+set_option trace.profiler true in
 theorem LineDifferentiableAt.congr_of_eventuallyEq
     (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
     LineDifferentiableAt 𝕜 f₁ x v := by
```
```
ℹ [1850/1850] Built Mathlib.Analysis.Calculus.LineDeriv.Basic (7.1s)
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.command] [0.068664] theorem congr_of_eventuallyEq (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
        LineDifferentiableAt 𝕜 f₁ x v :=
      by
      apply DifferentiableAt.congr_of_eventuallyEq h
      let F := fun (t : 𝕜) ↦ x + t • v
      rw [show x = F 0 by simp [F]] at hL
      exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
  [Elab.step] [0.057230] expected type: Type (max u_2 u_3), term
      E →L[𝕜] F
    [Elab.step] [0.057083] expected type: Type (max u_2 u_3), term
        ContinuousLinearMap✝ (RingHom.id✝ 𝕜) E F
      [Meta.synthInstance] [0.019120] ✅️ TopologicalSpace F
        [Meta.check] [0.017614] ✅️ PseudoMetricSpace.toUniformSpace.toTopologicalSpace
      [Meta.synthInstance] [0.021849] ✅️ AddCommMonoid F
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.command] [0.069057] theorem LineDifferentiableAt.congr_of_eventuallyEq (h : LineDifferentiableAt 𝕜 f x v)
        (hL : f₁ =ᶠ[𝓝 x] f) : LineDifferentiableAt 𝕜 f₁ x v :=
      by
      apply DifferentiableAt.congr_of_eventuallyEq h
      let F := fun (t : 𝕜) ↦ x + t • v
      rw [show x = F 0 by simp [F]] at hL
      exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.async] [0.184575] elaborating proof of LineDifferentiableAt.congr_of_eventuallyEq
  [Elab.definition.value] [0.183441] LineDifferentiableAt.congr_of_eventuallyEq
    [Elab.step] [0.182724] 
          apply DifferentiableAt.congr_of_eventuallyEq h
          let F := fun (t : 𝕜) ↦ x + t • v
          rw [show x = F 0 by simp [F]] at hL
          exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
      [Elab.step] [0.182707] 
            apply DifferentiableAt.congr_of_eventuallyEq h
            let F := fun (t : 𝕜) ↦ x + t • v
            rw [show x = F 0 by simp [F]] at hL
            exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
        [Elab.step] [0.031416] apply DifferentiableAt.congr_of_eventuallyEq h
          [Elab.step] [0.027970] expected type: <not-available>, term
              DifferentiableAt.congr_of_eventuallyEq h
            [Elab.step] [0.014835] expected type: DifferentiableAt 𝕜 (fun t ↦ f (x + t • v)) 0, term
                h
              [Meta.isDefEq] [0.014566] ✅️ DifferentiableAt ?m.35 ?m.43 ?m.45 =?= LineDifferentiableAt 𝕜 f x v
                [Meta.isDefEq] [0.014446] ✅️ DifferentiableAt ?m.35 ?m.43
                      ?m.45 =?= DifferentiableAt 𝕜 (fun t ↦ f (x + t • v)) 0
                  [Meta.isDefEq.delta] [0.014396] ✅️ DifferentiableAt ?m.35 ?m.43
                        ?m.45 =?= DifferentiableAt 𝕜 (fun t ↦ f (x + t • v)) 0
                    [Meta.synthInstance] [0.010443] ✅️ NormedSpace 𝕜 𝕜
        [Elab.step] [0.046785] let F := fun (t : 𝕜) ↦ x + t • v
          [Elab.step] [0.046590] refine_lift
                let F := fun (t : 𝕜) ↦ x + t • v;
                ?_
            [Elab.step] [0.046513] focus
                  (refine
                      no_implicit_lambda%
                        (let F := fun (t : 𝕜) ↦ x + t • v;
                        ?_);
                    rotate_right)
              [Elab.step] [0.046502] (refine
                        no_implicit_lambda%
                          (let F := fun (t : 𝕜) ↦ x + t • v;
                          ?_);
                      rotate_right)
                [Elab.step] [0.046497] (refine
                          no_implicit_lambda%
                            (let F := fun (t : 𝕜) ↦ x + t • v;
                            ?_);
                        rotate_right)
                  [Elab.step] [0.046491] (refine
                          no_implicit_lambda%
                            (let F := fun (t : 𝕜) ↦ x + t • v;
                            ?_);
                        rotate_right)
                    [Elab.step] [0.046486] refine
                            no_implicit_lambda%
                              (let F := fun (t : 𝕜) ↦ x + t • v;
                              ?_);
                          rotate_right
                      [Elab.step] [0.046481] refine
                              no_implicit_lambda%
                                (let F := fun (t : 𝕜) ↦ x + t • v;
                                ?_);
                            rotate_right
                        [Elab.step] [0.046459] refine
                              no_implicit_lambda%
                                (let F := fun (t : 𝕜) ↦ x + t • v;
                                ?_)
                          [Elab.step] [0.046320] expected type: (fun t ↦ f₁ (x + t • v)) =ᶠ[𝓝 0] fun t ↦
                                f (x + t • v), term
                              no_implicit_lambda%
                                (let F := fun (t : 𝕜) ↦ x + t • v;
                                ?_)
                            [Elab.step] [0.046226] expected type: (fun t ↦ f₁ (x + t • v)) =ᶠ[𝓝 0] fun t ↦
                                  f (x + t • v), term
                                let F := fun (t : 𝕜) ↦ x + t • v;
                                ?_
                              [Elab.step] [0.046128] expected type: ?m.47, term
                                  fun (t : 𝕜) ↦ x + t • v
                                [Elab.step] [0.045821] expected type: <not-available>, term
                                    x + t • v
                                  [Elab.step] [0.045756] expected type: <not-available>, term
                                      binop% HAdd.hAdd✝ x (t • v)
                                    [Meta.synthInstance] [0.024450] ✅️ HAdd E E E
                                    [Meta.synthInstance] [0.014007] ✅️ HSMul 𝕜 E E
        [Elab.step] [0.030540] rw [show x = F 0 by simp [F]] at hL
          [Elab.step] [0.030252] (rewrite [show x = F 0 by simp [F]] at hL;
                with_annotate_state"]" (try (with_reducible rfl)))
            [Elab.step] [0.030246] rewrite [show x = F 0 by simp [F]] at hL;
                  with_annotate_state"]" (try (with_reducible rfl))
              [Elab.step] [0.030241] rewrite [show x = F 0 by simp [F]] at hL;
                    with_annotate_state"]" (try (with_reducible rfl))
                [Elab.step] [0.029743] rewrite [show x = F 0 by simp [F]] at hL
                  [Elab.step] [0.024085] simp [F]
                    [Elab.step] [0.024076] simp [F]
                      [Elab.step] [0.024061] simp [F]
                        [Meta.isDefEq] [0.019244] ✅️ 0 • ?m =?= 0 • v
                          [Meta.isDefEq] [0.019108] ✅️ instHSMul =?= instHSMul
                            [Meta.isDefEq.delta] [0.019089] ✅️ instHSMul =?= instHSMul
                              [Meta.synthInstance] [0.018187] ✅️ SMulWithZero 𝕜 E
                                [Meta.synthInstance] [0.010198] ✅️ apply MulActionWithZero.toSMulWithZero to SMulWithZero
                                      𝕜 E
                                  [Meta.synthInstance.tryResolve] [0.010162] ✅️ SMulWithZero 𝕜 E ≟ SMulWithZero 𝕜 E
        [Elab.step] [0.073906] exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
          [Elab.step] [0.056898] fun_prop
            [Elab.step] [0.056884] fun_prop
              [Elab.step] [0.056866] fun_prop
                [Meta.Tactic.fun_prop] [0.055822] [✅️] Continuous F
                  [Meta.Tactic.fun_prop] [0.054075] [✅️] Continuous fun t ↦ x + t • v
                    [Meta.Tactic.fun_prop] [0.053605] [✅️] applying: Continuous.add
                      [Meta.synthInstance] [0.029155] ✅️ ContinuousAdd E
                        [Meta.synthInstance] [0.024127] ❌️ apply @IsTopologicalSemiring.toContinuousAdd to ContinuousAdd
                              E
                          [Meta.synthInstance.tryResolve] [0.024105] ❌️ ContinuousAdd E ≟ ContinuousAdd ?m.92
                            [Meta.isDefEq] [0.024098] ❌️ ContinuousAdd E =?= ContinuousAdd ?m.92
                              [Meta.isDefEq] [0.023996] ❌️ NormedAddCommGroup.toENormedAddCommMonoid.toAddCommMonoid.toAddCommSemigroup.toAddCommMagma.toAdd =?= NonUnitalNonAssocSemiring.toDistrib.toAdd
                                [Meta.isDefEq] [0.023499] ❌️ NormedAddCommGroup.toENormedAddCommMonoid.toAddCommMonoid.toAddCommSemigroup.toAddCommMagma.1 =?= NonUnitalNonAssocSemiring.toDistrib.2
                                  [Meta.isDefEq] [0.023430] ❌️ NormedAddCommGroup.toENormedAddCommMonoid.toAddCommMonoid.toAddCommSemigroup.toAdd =?= NonUnitalNonAssocSemiring.toAddCommMonoid.toAdd
                                    [Meta.isDefEq.delta] [0.022314] ❌️ NormedAddCommGroup.toENormedAddCommMonoid.toAddCommMonoid.toAddCommSemigroup.toAdd =?= NonUnitalNonAssocSemiring.toAddCommMonoid.toAdd
                                      [Meta.synthInstance] [0.013745] ❌️ NonUnitalNonAssocSemiring E
                      [Meta.Tactic.fun_prop] [0.019501] [✅️] Continuous fun x ↦ x • v
                        [Meta.Tactic.fun_prop] [0.018515] [✅️] applying: Continuous.smul
                          [Meta.synthInstance] [0.016110] ✅️ ContinuousSMul 𝕜 E
Build completed successfully (1850 jobs).
```

### Trace profiling of `LineDifferentiableAt.congr_of_eventuallyEq` after PR 28203
```diff
diff --git a/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean b/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
index 97ba668da2..f1e6859f9c 100644
--- a/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
+++ b/Mathlib/Analysis/Calculus/LineDeriv/Basic.lean
@@ -360,13 +360,11 @@ theorem LineDifferentiableWithinAt.congr_of_eventuallyEq (h : LineDifferentiable
     (h₁ : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) : LineDifferentiableWithinAt 𝕜 f₁ s x v :=
   (h.hasLineDerivWithinAt.congr_of_eventuallyEq h₁ hx).differentiableWithinAt
 
+set_option trace.profiler true in
 theorem LineDifferentiableAt.congr_of_eventuallyEq
     (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
-    LineDifferentiableAt 𝕜 f₁ x v := by
-  apply DifferentiableAt.congr_of_eventuallyEq h
-  let F := fun (t : 𝕜) ↦ x + t • v
-  rw [show x = F 0 by simp [F]] at hL
-  exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
+    LineDifferentiableAt 𝕜 f₁ x v :=
+  hL.symm.lineDifferentiableAt_iff.mp h
 
 theorem Filter.EventuallyEq.lineDerivWithin_eq (hs : f₁ =ᶠ[𝓝[s] x] f) (hx : f₁ x = f x) :
     lineDerivWithin 𝕜 f₁ s x v = lineDerivWithin 𝕜 f s x v := by
```
```
ℹ [1850/1850] Built Mathlib.Analysis.Calculus.LineDeriv.Basic (7.0s)
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.command] [0.053082] theorem congr_of_eventuallyEq (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
        LineDifferentiableAt 𝕜 f₁ x v :=
      hL.symm.lineDifferentiableAt_iff.mp h
  [Elab.step] [0.042614] expected type: Type (max u_2 u_3), term
      E →L[𝕜] F
    [Elab.step] [0.042451] expected type: Type (max u_2 u_3), term
        ContinuousLinearMap✝ (RingHom.id✝ 𝕜) E F
      [Meta.synthInstance] [0.021006] ✅️ AddCommMonoid E
        [Meta.synthInstance.resume] [0.012861] propagating ENormedAddCommMonoid
              E to subgoal ENormedAddCommMonoid E of ESeminormedAddCommMonoid E
          [Meta.synthInstance.answer] [0.012846] ✅️ ESeminormedAddCommMonoid E
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.command] [0.053354] theorem LineDifferentiableAt.congr_of_eventuallyEq (h : LineDifferentiableAt 𝕜 f x v)
        (hL : f₁ =ᶠ[𝓝 x] f) : LineDifferentiableAt 𝕜 f₁ x v :=
      hL.symm.lineDifferentiableAt_iff.mp h
info: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean:364:0: [Elab.async] [0.014592] elaborating proof of LineDifferentiableAt.congr_of_eventuallyEq
  [Elab.definition.value] [0.013461] LineDifferentiableAt.congr_of_eventuallyEq
    [Elab.step] [0.011997] expected type: LineDifferentiableAt 𝕜 f₁ x v, term
        hL.symm.lineDifferentiableAt_iff.mp h
Build completed successfully (1850 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean [hunk 1]
```diff
@@ -362,11 +362,8 @@ theorem LineDifferentiableWithinAt.congr_of_eventuallyEq (h : LineDifferentiable
 
 theorem LineDifferentiableAt.congr_of_eventuallyEq
     (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
-    LineDifferentiableAt 𝕜 f₁ x v := by
-  apply DifferentiableAt.congr_of_eventuallyEq h
-  let F := fun (t : 𝕜) ↦ x + t • v
-  rw [show x = F 0 by simp [F]] at hL
-  exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
+    LineDifferentiableAt 𝕜 f₁ x v :=
+  (EventuallyEq.lineDifferentiableAt_iff (id (EventuallyEq.symm hL))).mp h
```
Comment (kim-em) [inline Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: What is the `id` doing here?

Comment (euprunin) [reply Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: Thanks! Fixed.

File: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean [hunk 2]
```diff
@@ -362,11 +362,8 @@ theorem LineDifferentiableWithinAt.congr_of_eventuallyEq (h : LineDifferentiable
 
 theorem LineDifferentiableAt.congr_of_eventuallyEq
     (h : LineDifferentiableAt 𝕜 f x v) (hL : f₁ =ᶠ[𝓝 x] f) :
-    LineDifferentiableAt 𝕜 f₁ x v := by
-  apply DifferentiableAt.congr_of_eventuallyEq h
-  let F := fun (t : 𝕜) ↦ x + t • v
-  rw [show x = F 0 by simp [F]] at hL
-  exact (Continuous.continuousAt (by fun_prop)).preimage_mem_nhds hL
+    LineDifferentiableAt 𝕜 f₁ x v :=
+  (EventuallyEq.lineDifferentiableAt_iff (EventuallyEq.symm hL)).mp h
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: Same comment about dot notation (in this case, `hL.symm.lineDifferentiableAt_iff`). Thanks!

Comment (euprunin) [reply Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: Fixed!

**Comment by euprunin** [comment]
Added profiling results to PR description. Summary: "183 ms before, 13 ms after  🎉"

**Comment by grunweg** [comment]
Thanks!
maintainer merge
